US07262212B2
A mixture of 3-(2-methyloxiran-2-ylmethyl)-oxazolidin-2-one (2.87 g, 18.23 mmol), 2-chloro-4-nitro-1H-imidazole (2.7 g, 18.23 mmol), sodium acetate (1.64 g, 20.05 mmol) and ethanol (30 ml) was stirred under reflux for 10 hours. The reaction mixture was allowed to return to room temperature and concentrated under reduced pressure. To the residue, methylene chloride was added, and the resulting solution was washed with water, a saturated sodium hydrogencarbonate solution and a saturated saline solution in this order, dried over magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure, and the residue was dissolved in 1,4-dioxane (50 ml). To the solution, sodium hydride (610 mg, 15.25 mmol) was added followed by stirring under reflux overnight. The reaction mixture was allowed to return to room temperature and concentrated under reduced pressure. To the residue, water was added, and the solution was extracted with methylene chloride. The organic phase was dried over magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=20/1) to afford 3-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)oxazolidin-2-one (1.54 g, yield 40%) as a white powder.

reactant | 3-(2-methyloxiran-2-ylmethyl)-oxazolidin-2-one | 18.23 mmol, 2.87 g | CC1(OC1)CN1C(OCC1)=O | C7H11NO3
reactant | 2-chloro-4-nitro-1H-imidazole | 18.23 mmol, 2.7 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | sodium acetate | 20.05 mmol, 1.64 g | C(C)(=O)[O-].[Na+]
reactant | sodium hydride | 15.25 mmol, 610 mg | [H-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)oxazolidin-2-one | 1.54 g, yield 40% | CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])CN2C(OCC2)=O | C10H12N4O5
